US06939989B2
4-{[(4-carboxybutyl)(2-{2-[(3-fluoro-4′-trifluoromethyl-1,1′-biphenyl-4-yl)methoxy]phenyl}ethyl)amino]methyl}benzoic acid hydrochloride
0.5 ml (2 mmol) of a 4-molar solution of HCl in dioxane is added to a solution of 220 mg of 4-{[(4-carboxybutyl)(2-{2-[(3-fluoro-4′-trifluoromethyl-1,1′-biphenyl4-yl)methoxy]phenyl}ethyl)amino]methyl}benzoic acid from Ex. 3 in 0.2 ml of dioxane, and the mixture is stirred at 60° C. for 1 h. The mixture is then concentrated by evaporation and the resulting colorless oil is triturated repeatedly with diethyl ether. The resulting crystals are filtered and dried.

reactant | HCl | Cl | ClH
reactant | 4-{[(4-carboxybutyl)(2-{2-[(3-fluoro-4′-trifluoromethyl-1,1′-biphenyl4-yl)methoxy]phenyl}ethyl)amino]methyl}benzoic acid | 220 mg | C(=O)(O)CCCCN(CCC1=C(C=CC=C1)OCC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)F)CC1=CC=C(C(=O)O)C=C1 | C35H33F4NO5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 4-{[(4-carboxybutyl)(2-{2-[(3-fluoro-4′-trifluoromethyl-1,1′-biphenyl-4-yl)methoxy]phenyl}ethyl)amino]methyl}benzoic acid hydrochloride | Cl.C(=O)(O)CCCCN(CCC1=C(C=CC=C1)OCC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)F)CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C35H33F4NO5.ClH/c36-31-21-28(25-14-16-30(17-15-25)35(37,38)39)12-13-29(31)23-45-32-6-2-1-5-26(32)18-20-40(19-4-3-7-33(41)42)22-24-8-10-27(11-9-24)34(43)44;/h1-2,5-6,8-17,21H,3-4,7,18-20,22-23H2,(H,41,42)(H,43,44);1H
